US07687491B2
(10a) t-Butyl[(4-ethyl-2-thienyl)methoxy]dimethylsilane
To a solution of [(4-bromo-2-thienyl)methoxy](t-butyl)dimethylsilane (0.61 g, 2.0 mmol) and [1,3-bis(diphenylphosphino)propane]dichloronickel (54 mg, 0.1 mmol) in ether (5 ml) was added slowly a 1.0 M solution of ethylmagnesium bromide in tetrahydrofuran (3.0 ml, 3.0 mmol) at 0° C. with stirring, and after raising the reaction temperature to room temperature, the resulting mixture was stirred for 1 hour. After stirring, a saturated aqueous solution of ammonium chloride (5 ml) was added to the reaction mixture to quench the reaction, and the resulting mixture was poured into water (20 ml) and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (0:10 to 5:95) as the eluent to afford the title compound (0.44 g) in a yield of 95% as a pale yellow oily product.

reactant | [(4-bromo-2-thienyl)methoxy](t-butyl)dimethylsilane | 2.0 mmol, 0.61 g | BrC=1C=C(SC1)CO[Si](C)(C)C(C)(C)C | C11H19BrOSSi
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | tetrahydrofuran | 3.0 mmol, 3.0 ml | O1CCCC1 | C4H8O
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | ether | 5 ml | CCOCC | C4H10O
catalyst | [1,3-bis(diphenylphosphino)propane]dichloronickel | 0.1 mmol, 54 mg | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
solvent | water | 20 ml | O | H2O
product | t-Butyl[(4-ethyl-2-thienyl)methoxy]dimethylsilane | yield of 95% | C(C)(C)(C)[Si](C)(C)OCC=1SC=C(C1)CC | C13H24OSSi
